US05002945
1-(2-pyridylmethyl)-2-mercaptoimidazole and 2-phthalimidobenzyl chloride are treated in the same manner as described in Example 1-(1) to give 1-(2-pyridylmethyl)-2-(2-phthalimidobenzylthio)imidazole.

reactant | 1-(2-pyridylmethyl)-2-mercaptoimidazole | N1=C(C=CC=C1)CN1C(=NC=C1)S | C9H9N3S
reactant | 2-phthalimidobenzyl chloride | C1(C=2C(C(N1C1=C(CCl)C=CC=C1)=O)=CC=CC2)=O | C15H10ClNO2
product | 1-(2-pyridylmethyl)-2-(2-phthalimidobenzylthio)imidazole | N1=C(C=CC=C1)CN1C(=NC=C1)SCC1=C(C=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C24H18N4O2S
